datasets/10k_Mayr_OG.csv
SMILES Labelled
"CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH:11](C)[H:10].Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH+:11]C.Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C:20]([H:10])([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20"
"CC(C)(C)[N:62]1CCC[N:72](C(C)(C)C)[P:11]1[H:10].C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>CC(C)(C)[N:62]1CCC[N:72](C(C)(C)C)[P+:11]1.C[O:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1 10,11=10,20;20,21=21"
C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.ClC1=CC=C([P:10](C2=CC=C(Cl)C=C2)C2=CC=C(Cl)C=C2)C=C1>>ClC1=CC=C([P+:10](C2=CC=C(Cl)C=C2)(C2=CC=C(Cl)C=C2)[CH:20]([C:31]2=[CH:32][CH:33]=[C:34](N(C3=CC=CC=C3)C3=CC=CC=C3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C3=CC=CC=C3)C3=CC=CC=C3)[CH:45]=[CH:46]2)C=C1 10=20
"C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].C[N:12]1CC[N:62](C)[C:11]1=[CH2:10]>>C[N+:12]1=[C:11]([CH2:10][CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[N:62](C)CC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:20]1=[CH:21][C:22](=[O:23])CCC1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCCCC1>>C[C:20]1([CH:10]2CCCCC[C:11]2=[O+:12][Si:63](C)(C)C)CCC[C:22]([O-:23])=[CH:21]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[S:31][CH+:20][S:41]C1.C[S:11](C)=[CH:10][C:61](C1=CC=C(Br)C=C1)=[O:62]>>C[S+:11](C)[CH:10]([CH:20]1[S:31]CCC[S:41]1)[C:61](C1=CC=C(Br)C=C1)=[O:62] 10,11=10,20"
"CC1(C)CCC[NH:10]1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2CCCC2(C)C)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].[H:10][CH:11]([CH:12]=[CH2:13])[CH:62]=[CH2:63]>>CC[O:33][C:22](=[C:21](C)[CH2:20][H:10])[O-:23].[CH:11](=[CH:12][CH2+:13])[CH:62]=[CH2:63] 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]/C.CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1>>CC1=CC(C)=C(C(C)C[CH:20]([CH:10](C)[CH+:11]C)[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1 10,11=10,20"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:63]1=[C:62]([BH2-:11][H:10])[N:73](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:65]=[CH:64]1.C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:63]1=[C:62]([BH2:11])[N:73](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:65]=[CH:64]1.C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10,11=10,20;20,21=21,22;22,23=23"
"COC1=CC=CC(OC)=C1[P:10](C1=C(OC)C=CC=C1OC)C1=C(OC)C=CC=C1OC.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>COC1=CC=CC(OC)=C1[P+:10](C1=C(OC)C=CC=C1OC)(C1=C(OC)C=CC=C1OC)[CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC1=CC=CC=C1[P:10](C1=CC=CC=C1C)C1=C(C)C=CC=C1>>CC1=CC=CC=C1[P+:10](C1=CC=CC=C1C)(C1=C(C)C=CC=C1)[CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)/[CH:41]=[CH:42]/C1=CC=C([N+](=O)[O-])C=C1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12][CH:11]=[CH2:10].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2>>CC(C)[Si:63](C(C)C)(C(C)C)[O+:12]=[CH:11][CH2:10][CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C12CCCC2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[N:61](C)[NH2:10]>>C[N:61](C)[NH2+:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Br)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]1 10=20
"CC[O:83][P:72]([CH-:10][C:61]#[N:62])(=[O:73])[O:93]CC.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>CC[O:83][P:72]([CH:10]([CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:61]#[N:62])(=[O:73])[O:93]CC 10=20;20,21=21,22;22,23=23,24;24,25=25"
